US04137310
In a Paar hydrogenation bottle, a mixture of 3-methylthio-4-nitroaniline (7.7 g), 5% Pd/C catalyst (8.0 g), concentrated hydrochloric acid (7 ml) and ethanol (200 ml) is treated with hydrogen at 3.43 kg/cm2 for 45 minutes (until 0.8 kg/cm2 hydrogen is absorbed). The mixture is filtered through diatomaceous earth and the filtrate evaporated to dryness afford 3-methylthio-p-phenylenediamine hydrochloride. The salt is dissolved in water, the solution made alkaline (pH 9-10) with 50% sodium hydroxide and the diamine extracted with methylene chloride (3×150 ml). The combined extracts are dried over magnesium sulfate and evaporated to dryness to afford 4.75 g of title product, a brown solid, which is used as is.

reactant | 3-methylthio-4-nitroaniline | 7.7 g | CSC=1C=C(N)C=CC1[N+](=O)[O-] | C7H8N2O2S
reactant | hydrochloric acid | 7 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 8.0 g | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-methylthio-p-phenylenediamine hydrochloride | Cl.CSC=1C=C(C=CC1N)N | InChI=1S/C7H10N2S.ClH/c1-10-7-4-5(8)2-3-6(7)9;/h2-4H,8-9H2,1H3;1H
